US07402581B2
3-Cyano-N-[2-(4-fluoro-2-methylphenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide (350 mg, 0.89 mmol) was dissolved in CH2Cl2 (15 mL) together with Dess-Martin periodinane (410 mg, 098 mmol) and the mixture was stirred at room temperature for 4 h. Sodium thiosulfate (0.84 g, 5.2 mmol), dissolved in a saturated solution of NaHCO3 aq, was added and the mixture was then stirred vigorously for 1 h. The organic layer was washed with NaHCO3 aq and then brine. The solution was dried over Na2SO4 and the solvent was removed by evaporation. There was obtained 310 mg (89%) of 3-cyano-N-[2-(4-fluoro-2-methylphenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide as an oil. 1H NMR (300 MHz, CDCl3): 1.0-4.5 (cm, 19H), 6.6-7.4 (cm, 5H), 9.8 (s, 1H). LCMS: m/z 391 (M−1)−.

reactant | 3-Cyano-N-[2-(4-fluoro-2-methylphenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | 0.89 mmol, 350 mg | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)N(C)CC(CCO)C1=C(C=C(C=C1)F)C | C24H27FN2O2
reactant | Dess-Martin periodinane | 410 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Sodium thiosulfate | 5.2 mmol, 0.84 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-cyano-N-[2-(4-fluoro-2-methylphenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | 310 mg, 89% | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)N(C)CC(CC=O)C1=C(C=C(C=C1)F)C | C24H25FN2O2
